US05496937
In order to improve the properties of the thus obtained Compound Bs3 as a separating agent for chromatography, the compound was subjected to a conventional end capping treatment with trimethylchlorosilane. The resulting product was collected by filtration with a G4 glass filter and the residue was washed as above with tetrahydrofuran, methanol, acetone and hexane, and then dried in vacuum at 60° C. for 2 hours, to obtain a product to be used as a separating agent for chromatography. The chiral resolution ability of the compound was investigated as a separating agent for various racemic compounds. Results obtained are shown in Table 2. 3,5-Dimethylphenyl isocyanate used above can be readily obtained from 3,5-dimethylaniline by using phosgene, triphosgene, or the like.

reactant | trimethylchlorosilane | C[Si](Cl)(C)C | C3H9ClSi
reactant | 3,5-Dimethylphenyl isocyanate | CC=1C=C(C=C(C1)C)N=C=O | C9H9NO
product | 3,5-dimethylaniline | CC=1C=C(N)C=C(C1)C | C8H11N
